US07696240B2
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 1-bromomethyl-6-isopropoxy-naphthalene and the product obtained was hydrolyzed to give 1-(6-isopropoxy-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid as a white solid. MS: 358.0 ([M−H]−).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 1-bromomethyl-6-isopropoxy-naphthalene | BrCC1=CC=CC2=CC(=CC=C12)OC(C)C | C14H15BrO
product | 1-(6-isopropoxy-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid | C(C)(C)OC=1C=C2C=CC=C(C2=CC1)CN1C(=CC2=CC=CC=C12)C(=O)O | C23H21NO3
